2194-11-23 07:39:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9924**] PROGRESS NOTE
   Chief Complaint: viral URI, asthma
   24 Hour Events:
   Pt getting tachy w/ nebs o/n, no major events
   Allergies: NKDA
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-22**] 05:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-23**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 116 (106 - 126) bpm
   BP: 130/66(81) {120/63(77) - 152/84(100)} mmHg
   RR: 27 (14 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.7 kg (admission): 42 kg
             Total In:
                                                                  1,550 mL
                                                                    689 mL
   PO:
             TF:
   IVF:
                                                                  1,050 mL
                                                                    689 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    300 mL
   Urine:
                                                                    175 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,375 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GENERAL: Thin, pleasant, well appearing elderly [**Country **] Rican F in NAD,
   no accessory muscle use. Speaking in full sentences.
   Occasional dry cough, esp w/ nebs
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Dry MM.
   CARDIAC: Tachycardic, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Diffusely scattered rhonchi, bronchial breath sounds, and early
   insipratory crackles with prolonged expiratory phase.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: hyperpigmentation on extremities with scattered ecchymoses
   NEURO: A&Ox3. Appropriate en [**Last Name (un) 10071**]
   Labs / Radiology
   309 K/uL
   10.6 g/dL
   151 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.5 mEq/L
   19 mg/dL
   107 mEq/L
   140 mEq/L
   31.3 %
   8.1 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
   WBC
   8.1
   Hct
   31.3
   Plt
   309
   Cr
   1.2
   Glucose
   151
   Other labs: Ca++:8.1 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10055**] is an 82 yo [**Country **] Rican F w/ asthma and bronchiectasis
   admitted w/ dry non-productive cough, myalgias, and SOB x 1 wk.
   Symptoms most c/w viral process and exacerbation of underlying asthma.
   .
   #. Influenza like symptoms - No evidence of bacterial PNA on CXR. Her
   symptoms are c/w flu or other viral process. However, she is known to
   be colonized with both psuedomonas and E Coli (see bronchiectasis
   below).
   -- follow up flu swab
   -- begin tamiflu treatment dose for now, d/c if swab negative
   -- supportive care with tylenol, IVF, nebulizers, guaifenosin-dextro
   and tessalon perles
   -- f/u blood cultures
   -- send induced sputum culture for routine and PCP (chronic steroids)
   -- will begin ceftazidime for now (E Coli and pseudomonas were both S),
   but if cultures negative in 48 hours, will d/c.
   .
   # Asthma/Bronchiectasis - Never intubated in the past for her asthma.
   With regards to bronchiectasis, pt has grown pseudomonas (pan S) and E
   coli (quinolone resistent) from sputum in the recent past. Per Dr.
   [**Last Name (STitle) 104**], should her cough/dyspnea worsen, he would support an empiric
   course of antibiotics with effectiveness against her known colonizers.
   -- continue IV steroid burst with 125mg IV q6h solumedrol
   -- continue inhaled budesonide ([**Hospital1 5**] equiv = fluticasone) for now but
   likely of little benefit given systmeic steroid burst
   -- standing q4h albuterol nebs with q2h prn breakthrough
   -- supplemental O2 to maintain O2 sats >92%
   -- consider magnesium if no improvement
   -- will give ceftaz for now as above, d/c in 48 hours if no growht on
   cultures
   -- given increased steroid dosing, will check FSGs qid and write for
   ISS
   .
   #. Leukocytosis - Has baseline elevation due to chronic steroid use,
   however presence of left shift and bands more suggestive of infection.
   -- pan culture and empiric antibiotics as above, with plan to d/c if no
   growth
   -- trend WBC count
   .
   #. Anemia - borderline microcytic. HCT 31.5 on admission, appears to be
   close to baseline, but was 38.9 last month on routine outpatient check.
   Previously found to be iron deficient on admission [**8-10**].
   -- FeSo4 supplements
   -- guaiac all stools
   -- needs outpatient colonoscopy
   .
   #. Chondrocalcinosis - on 10mg prednisone daily at home.
   -- getting IV steroid burst, will need taper back to 10mg prednisone
   upon d/c
   .
   # Osteoporosis - also on chronic steroids
   -- continue calcium, vitamin D, weekly alendronate
   .
   #. Chronic Kidney Injury - Cr stable at 1.2
   -- renally dose all medications
   -- trend Creatinine
   .
   # HTN
   -- hold diltiazem in setting of dehydration and acute infection
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2194-11-22**] 04:30 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: home PPI
   VAP:
   Communication:  Comments: #. Communication [**Female First Name (un) 10059**] niece [**Name (NI) 225**]
   [**Telephone/Fax (1) 10060**], cell [**Telephone/Fax (1) 10061**]
   Code status: DNR / DNI
   Disposition: [**Hospital Unit Name 4**]

2194-11-23 08:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Admitted with URI, asthma flare
 found to be flu positive
   In ER 100.4, HR 114, RR 30
s, peak flow 180
   24 Hour Events:
   Stable overnight
   Given tamiflu, nebs, IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-22**] 05:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-23**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 116 (106 - 126) bpm
   BP: 130/66(81) {120/63(77) - 152/84(100)} mmHg
   RR: 27 (14 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.7 kg (admission): 42 kg
             Total In:
                                                                  1,550 mL
                                                                    696 mL
   PO:
             TF:
   IVF:
                                                                  1,050 mL
                                                                    696 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    300 mL
   Urine:
                                                                    175 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,375 mL
                                                                    396 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   no resp distress
   Heent unremarkable
   Neck supple
   Hrt tachy
   Lung no wheezes, scattered crackles
   Abd benign
   Extrem thin
   Labs / Radiology
   10.6 g/dL
   309 K/uL
   151 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.5 mEq/L
   19 mg/dL
   107 mEq/L
   140 mEq/L
   31.3 %
   8.1 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
   WBC
   8.1
   Hct
   31.3
   Plt
   309
   Cr
   1.2
   Glucose
   151
   Other labs: Ca++:8.1 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   CXR hyperinflated, stable bronchiectasis
   Assessment and Plan
   Resp distress, flu, asthma flare
  cont tamiflu, nebs, prednisone,
   resume outpatient regimen at discharge
   DM - SSI
   ICU Care
   Nutrition: eating
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-11-22**] 04:30 PM
   Prophylaxis:
   DVT:   sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :   transfer

2194-11-24 07:17:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2194-11-23**] 08:24 AM
   Heparin Sodium (Prophylaxis) - [**2194-11-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-24**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 105 (89 - 130) bpm
   BP: 133/74(89) {93/56(72) - 150/94(109)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.7 kg (admission): 42 kg
             Total In:
                                                                  1,936 mL
                                                                      1 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                    856 mL
                                                                      1 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,136 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GENERAL: Thin, pleasant, well appearing elderly [**Country **] Rican F in NAD,
   no accessory muscle use. Speaking in full sentences.
   Occasional dry cough, esp w/ nebs
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. Dry MM.
   CARDIAC: Tachycardic, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Diffusely scattered rhonchi, bronchial breath sounds, and early
   insipratory crackles with prolonged expiratory phase.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: hyperpigmentation on extremities with scattered ecchymoses
   NEURO: A&Ox3. Appropriate en [**Last Name (un) 10071**]
   Labs / Radiology
   320 K/uL
   10.0 g/dL
   118 mg/dL
   1.2 mg/dL
   24 mEq/L
   5.0 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   30.0 %
   13.3 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
                            [**2194-11-24**]  04:19 AM
   WBC
   8.1
   13.3
   Hct
   31.3
   30.0
   Plt
   309
   320
   Cr
   1.2
   1.2
   Glucose
   151
   118
   Other labs: Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10055**] is an 82 yo [**Country **] Rican F w/ asthma and bronchiectasis
   admitted w/ dry non-productive cough, myalgias, and SOB x 1 wk due to
   influenza and exacerbation of underlying asthma.
   .
   #. Influenza- positive flu swab. No evidence of bacterial PNA on CXR.
   -- continue tamiflu
   -- supportive care with tylenol, IVF, nebulizers, guaifenosin-dextro
   and tessalon perles
   -- f/u blood culture
   -- d/c fluticasone
 pt needs inhaled budesonide
 do NOT change her
   outpatient regimen!
   .
   # Asthma/Bronchiectasis - Never intubated in the past for her asthma.
   With regards to bronchiectasis, pt has grown pseudomonas (pan S) and E
   coli (quinolone resistent) from sputum in the recent past. Per Dr.
   [**Last Name (STitle) 104**], should her cough/dyspnea worsen, he would support an empiric
   course of antibiotics with effectiveness against her known colonizers.
   -- transition to PO prednisone taper
   -- standing q4h albuterol nebs with q2h prn breakthrough
   -- supplemental O2 to maintain O2 sats >92
   -- given increased steroid dosing, will check FSGs qid and write for
   ISS
   .
   #. Leukocytosis - Has baseline elevation due to chronic steroid use,
   however presence of left shift and bands more suggestive of infection.
   -- pan culture and empiric antibiotics as above, with plan to d/c if no
   growth
   -- trend WBC count
   .
   #. Anemia - borderline microcytic. HCT 31.5 on admission, appears to be
   close to baseline, but was 38.9 last month on routine outpatient check.
   Previously found to be iron deficient on admission [**8-10**].
   -- FeSo4 supplements
   -- guaiac all stools
   -- needs outpatient colonoscopy
   .
   #. Chondrocalcinosis - on 10mg prednisone daily at home.
   -- getting IV steroid burst, will need taper back to 10mg prednisone
   upon d/c
   .
   # Osteoporosis - also on chronic steroids
   -- continue calcium, vitamin D, weekly alendronate
   .
   #. Chronic Kidney Injury - Cr stable at 1.2
   -- renally dose all medications
   -- trend Creatinine
   .
   # HTN
   -- hold diltiazem in setting of dehydration and acute infection
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2194-11-22**] 04:30 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: home PPI
   VAP:
   Communication:  Comments: #. Communication [**Female First Name (un) 10059**] niece [**Name (NI) 225**]
   [**Telephone/Fax (1) 10060**], cell [**Telephone/Fax (1) 10061**]
   Code status: DNR / DNI
   Disposition: c/o floor

2194-11-24 11:21:00 Physician Attending Progress Note
Chief Complaint: Influenza
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No acute events overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2194-11-24**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 126 (89 - 135) bpm
   BP: 148/92(104) {93/56(72) - 150/94(109)} mmHg
   RR: 33 (15 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.7 kg (admission): 42 kg
             Total In:
                                                                  1,936 mL
                                                                    451 mL
   PO:
                                                                  1,080 mL
                                                                    450 mL
   TF:
   IVF:
                                                                    856 mL
                                                                      1 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,136 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Dullness : ), (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   320 K/uL
   118 mg/dL
   1.2 mg/dL
   24 mEq/L
   5.0 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   30.0 %
   13.3 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
                            [**2194-11-24**]  04:19 AM
   WBC
   8.1
   13.3
   Hct
   31.3
   30.0
   Plt
   309
   320
   Cr
   1.2
   1.2
   Glucose
   151
   118
   Other labs: Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   82 yo female with h/o asthma, bronchiectasis and now admit with
   influenza A.  She has persistent complaint of cough and notes
   subjectively that she feels improved across time while at rest.  With
   minimal exertion patient does evolve significant respiratory distress
   along with tachypnea suggesting that continued close care is required.
   ASTHMA-
   -Pred 60mg qd
   -Continue with outpatient regimen for chronic obstructive lung disease
   per Dr. [**Last Name (STitle) 104**]
   [**Name (STitle) 10094**] needs continued close monitoring in the setting of persistent
   bronchospasm.
   Bronchiectasis-
   -Will continue to monitor for worsening production of sputum
   -Will Rx for known E. Coli and Pseudomonas if worsening sputum
   production seen
   -WBC is increased today but sputum production unchanged
   INFLUENZA-
   -Continue with Tamiflu
   -Follow up cultures
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-11-24**] 04:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2194-11-25 07:00:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9924**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -Called back in [**2-3**] respiratory distress
   -Gave continuous neb
   -Patient's respiratory status improved throughout day
   Allergies: NKDA
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-25**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-25**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 105 (82 - 135) bpm
   BP: 125/88(97) {99/49(64) - 150/96(104)} mmHg
   RR: 21 (18 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.5 kg (admission): 42 kg
                  Total In:
                                                                    801 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
                                                                      1 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                      0 mL
   Urine:
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -179 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   GENERAL: Speaking in half-sentences, using accessory muscles, coughs
   periodically.
   CARDIAC: Tachycardic, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Diffuse wheezes.
   ABDOMEN: NABS. Soft, NT, ND.
   EXTREMITIES: No edema or calf pain, warm and well-perfused.
   NEURO: A&Ox3.
   Labs / Radiology
   330 K/uL
   10.5 g/dL
   64 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   19 mg/dL
   106 mEq/L
   143 mEq/L
   30.5 %
   16.3 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
                            [**2194-11-24**]  04:19 AM
                            [**2194-11-25**]  04:11 AM
   WBC
   8.1
   13.3
   16.3
   Hct
   31.3
   30.0
   30.5
   Plt
   [**Telephone/Fax (3) 10129**]
   Cr
   1.2
   1.2
   1.0
   Glucose
   151
   118
   64
   Other labs: Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10055**] is an 82 yo F w/ asthma and bronchiectasis admitted w/ dry
   non-productive cough, myalgias, and SOB x 1 wk due to influenza and
   exacerbation of underlying asthma.
   .
   #. Influenza- positive flu swab. No evidence of bacterial PNA on CXR.
   -- continue tamiflu
   -- supportive care with IVF, nebulizers, guaifenosin-dextromethorphan
   and tessalon perles, holding acetaminophen so as not to mask fever
   -- f/u blood culture
   .
   # Asthma/Bronchiectasis - Never intubated in the past for her asthma.
   With regards to bronchiectasis, pt has grown pseudomonas (pan S) and E
   coli (quinolone resistent) from sputum in the recent past. Per Dr.
   [**Last Name (STitle) 104**], should her cough/dyspnea worsen, he would support an empiric
   course of antibiotics with effectiveness against her known colonizers.
   -- transition to PO prednisone taper
   -- holding budesonide with patient on systemic glucocorticoids; will
   restart on discharge
   -- standing q4h albuterol nebs with q2h prn wheezing/SOB
   -- supplemental O2 to maintain O2 sats >92
   -- given system glucocorticoids, will check FSGs qid and write for ISS
   .
   #. Leukocytosis - Likely [**2-3**] steroid use.  Ddx includes infection.
   -- f/u cultures
   -- trend WBC count
   -- off acetaminophen to monitor fever curve
   .
   #. Anemia - borderline microcytic. HCT 31.5 on admission, appears to be
   close to baseline, but was 38.9 last month on routine outpatient check.
   Found to be iron deficient in [**7-10**].
   -- FeSO4 supplements
   -- guaiac all stools
   -- needs outpatient colonoscopy
   .
   #. Chondrocalcinosis - on 10mg prednisone daily at home.
   -- getting IV steroid burst, will need taper back to 10mg prednisone
   upon d/c
   .
   # Osteoporosis
   -- continue calcium, vitamin D, weekly alendronate
   .
   #. Chronic Kidney Injury - Cr stable at 1.2
   -- renally dose all medications
   -- trend Creatinine
   .
   # HTN
   -- restarted diltiazem for rate and blood pressure control
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2194-11-22**] 04:30 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: home PPI
   VAP:
   Communication:  Comments: #. Communication [**Female First Name (un) 10059**] niece [**Name (NI) 225**]
   [**Telephone/Fax (1) 10060**], cell [**Telephone/Fax (1) 10061**]
   Code status: DNR / DNI
   Disposition: [**Hospital Unit Name 4**], c/o floor

2194-11-25 12:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with continuous neb given throughout [**11-24**]
   -O2 decreased to 2 lpm
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-25**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2194-11-25**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 118 (82 - 120) bpm
   BP: 128/70(77) {99/49(64) - 155/96(100)} mmHg
   RR: 25 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.5 kg (admission): 42 kg
                  Total In:
                                                                    801 mL
                                                                    300 mL
   PO:
                                                                    800 mL
                                                                    300 mL
   TF:
   IVF:
                                                                      1 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    550 mL
   Urine:
                                                                    980 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -179 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : Diffuse and end expiratory, Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Spanish Only
   Labs / Radiology
   10.5 g/dL
   330 K/uL
   64 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   19 mg/dL
   106 mEq/L
   143 mEq/L
   30.5 %
   16.3 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
                            [**2194-11-24**]  04:19 AM
                            [**2194-11-25**]  04:11 AM
   WBC
   8.1
   13.3
   16.3
   Hct
   31.3
   30.0
   30.5
   Plt
   [**Telephone/Fax (3) 10129**]
   Cr
   1.2
   1.2
   1.0
   Glucose
   151
   118
   64
   Other labs: Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR-Patient with persistent and significant hyperinflation and
   with increased lung markings bilaterally concerning for
   infiltrate/pneumonia
   Assessment and Plan
   82 yo female with significant history of chronic obstructive lung
   disease who now has persistent tachypnea and bronchospasm in the
   setting of admission for H1N1 infection.  She has had very slow trend
   to improvement with continued close monitoring and care.
   1)Respiratory Distress-
   -Pred 60mg/d
   -Do have concerning increase in sputum volume and with increased
   infiltrates on CXR this does raise significant concern for bacterial
   superinfection
   -Continue NEBS
   -Will add broad spectrum antibiotics-Vanco/Ceftaz for superinfection on
   influenza and will cover GNR
s going forward given past sensitivities.
   2)Pneumonia-
   -Tamiflu
   -Will expand to cover pneumonia
 HYPERGLYCEMIA
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2194-11-25**] 12:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: po diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2194-11-26 06:44:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: Influenza
   24 Hour Events:
   - WBC was trending up, so ordered CXR which showed new pulmnonary
   infiltrate suggestive of superimposed PNA
   - pan cultured, sputum cx growing out 4+ GNRs, culture pending and
   sensitivities requested in lab
   - States that she feels better today, continues to have cough but no
   longer feels as though she is febrile.  Feels that she is tired of
   sitting in bed.
   - Has needed 3 prn doses of nebs in last 24 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-23**] 08:00 AM
   Ceftazidime - [**2194-11-25**] 02:00 PM
   Vancomycin - [**2194-11-25**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-25**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-26**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 93 (82 - 125) bpm
   BP: 134/60(78) {104/47(62) - 155/75(94)} mmHg
   RR: 25 (15 - 34) insp/min
   SpO2: 99% on 2L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.5 kg (admission): 42 kg
                  Total In:
                                                                  1,200 mL
                                                                    100 mL
   PO:
                                                                    950 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    500 mL
   Urine:
                                                                  1,800 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GENERAL: Speaking in full sentences, mildly using accessory muscles,
   has strong productive cough
   CARDIAC: Tachycardic, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Diffuse wheezes with rhonchi bilaterally
   ABDOMEN: NABS. Soft, NT, ND.
   EXTREMITIES: No edema or calf pain, warm and well-perfused.
   NEURO: A&Ox3.
   Labs / Radiology
   305 K/uL
   10.0 g/dL
   82 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   17 mg/dL
   104 mEq/L
   141 mEq/L
   29.7 %
   12.0 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
                            [**2194-11-24**]  04:19 AM
                            [**2194-11-25**]  04:11 AM
                            [**2194-11-26**]  05:10 AM
   WBC
   8.1
   13.3
   16.3
   12.0
   Hct
   31.3
   30.0
   30.5
   29.7
   Plt
   [**Telephone/Fax (3) 10148**]05
   Cr
   1.2
   1.2
   1.0
   0.9
   Glucose
   151
   118
   64
   82
   Other labs: Differential-Neuts:86.3 %, Lymph:8.2 %, Mono:4.9 %, Eos:0.4
   %, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
GRAM STAIN (Final [**2194-11-25**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Preliminary): Pending
CXR [**2194-11-25**]: Focal consolidation most likely pneumonia.
   Assessment and Plan
   Ms. [**Known lastname 10055**] is an 82 yo F w/ asthma and bronchiectasis admitted w/ dry
   non-productive cough, myalgias, and SOB x 1 wk due to H1N1 influenza
   and exacerbation of underlying asthma, now with likely superimposed
   pneumonia.
   #. PNEUMONIA
 Leukocytosis yesterday likely due to superimposed
   pneumonia, started on Vanc/Ceftaz, now WBC downtrending.  Given known
   hx bronchiectasis and previous sputum cx growing out pseudomonas and
   e.coli will treat broadly w/ anti pseudomonal coverage
   -- continue Vanc & Ceftaz pending sensitivities, today is day 2 of
   antibiotics
   -- trend WBC count, fever curve (no tylenol)
   -- f/u pending culture and sensitivity data
   .
   2. RESPIRATORY DISTRESS- due to influenza and likely superimposed
   bacterial PNA in combination with underylying asthma
   -- continue tamiflu at 75mg po BID as renal function has improved
   -- supportive care with IVF, nebulizers, guaifenosin-dextromethorphan
   and tessalon perles, holding acetaminophen so as not to mask fever
   -- continue prednisone
   -- continue nebs for asthma standing q4h albuterol nebs w/ q2h
   albuterol nebs PRN
 will monitor frequency of prn nebs to assess for
   need for ICU care
   3.  HTN
   --continue diltiazem for rate and blood pressure control
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2194-11-22**] 04:30 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: home PPI
   VAP:
   Communication:  Comments: #. Communication [**Female First Name (un) 10059**] niece [**Name (NI) 225**]
   [**Telephone/Fax (1) 10060**], cell [**Telephone/Fax (1) 10061**]
   Code status: DNR / DNI
   Disposition: [**Hospital Unit Name 4**] for now, will monitor through the day and possibly
   call out to floor

2194-11-26 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with modest improvement in cough across time.
   -O2 support maintained at 2 lpm
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2194-11-25**] 02:00 PM
   Vancomycin - [**2194-11-25**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-26**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-26**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 112 (82 - 125) bpm
   BP: 134/68(84) {104/47(62) - 143/73(89)} mmHg
   RR: 33 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.5 kg (admission): 42 kg
                  Total In:
                                                                  1,200 mL
                                                                    250 mL
   PO:
                                                                    950 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    500 mL
   Urine:
                                                                  1,800 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : Very diffuse, Rhonchorous: ), Speaking in
   full sentences
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   305 K/uL
   82 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   17 mg/dL
   104 mEq/L
   141 mEq/L
   29.7 %
   12.0 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
                            [**2194-11-24**]  04:19 AM
                            [**2194-11-25**]  04:11 AM
                            [**2194-11-26**]  05:10 AM
   WBC
   8.1
   13.3
   16.3
   12.0
   Hct
   31.3
   30.0
   30.5
   29.7
   Plt
   [**Telephone/Fax (3) 10148**]05
   Cr
   1.2
   1.2
   1.0
   0.9
   Glucose
   151
   118
   64
   82
   Other labs: Differential-Neuts:86.3 %, Lymph:8.2 %, Mono:4.9 %, Eos:0.4
   %, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR-
   Assessment and Plan
   82 yo female admitted with significant and persistent bronchospasm in
   the setting of H1N1 influenza and now with clearly likley bacterial
   superinfection based upon X-ray and persistent respiratory distress.
   1)RESPIRATORY FAILURE-ACUTE and CHRONIC-_Substantial improvement in
   persistent and signficiant bronchospasm in the setting of ongoing
   treatment
   COPD-
   Pred 60mg qd
   Albuerol
   PNEUMONIA-
   Vanco/Ceftaz to continue
   H1N1 INFLUENZA
   Tamiflu to continue
   ICU Care
   Nutrition: PO diet to continue
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2194-11-25**] 12:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2194-11-27 07:51:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9924**] PROGRESS NOTE
   Chief Complaint: influenza H1N1 +/- superimposed bacterial PNA
   24 Hour Events:
   -Two different GNR on Prelim sputum culture (final pending)
   Allergies: NKDA
   Last dose of Antibiotics:
   Ceftazidime - [**2194-11-25**] 02:00 PM
   Vancomycin - [**2194-11-26**] 03:55 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-11-26**] 04:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-27**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 88 (72 - 119) bpm
   BP: 115/57(72) {106/42(63) - 147/95(101)} mmHg
   RR: 18 (15 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.5 kg (admission): 42 kg
                  Total In:
                                                                  1,200 mL
                                                                    150 mL
   PO:
                                                                  1,000 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    400 mL
   Urine:
                                                                  1,150 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: pleasant elderly Hispanic female speaking in full sentences en
   [**Last Name (un) 10071**], mildly using accessory muscles, has strong productive cough of
   yellowish-green sputum
   CARDIAC: Tachycardic, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Diffuse wheezes on expiration and inspiration with rhonchi
   bilaterally
   ABDOMEN: NABS. Soft, NT, ND.
   EXTREMITIES: No edema or calf pain, warm and well-perfused.
   NEURO: A&Ox3.
   Labs / Radiology
   323 K/uL
   10.4 g/dL
   86 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   22 mg/dL
   100 mEq/L
   138 mEq/L
   30.9 %
   12.9 K/uL
        [image002.jpg]
                            [**2194-11-23**]  03:45 AM
                            [**2194-11-24**]  04:19 AM
                            [**2194-11-25**]  04:11 AM
                            [**2194-11-26**]  05:10 AM
                            [**2194-11-27**]  05:25 AM
   WBC
   8.1
   13.3
   16.3
   12.0
   12.9
   Hct
   31.3
   30.0
   30.5
   29.7
   30.9
   Plt
   [**Telephone/Fax (3) 10148**]05
   323
   Cr
   1.2
   1.2
   1.0
   0.9
   1.0
   Glucose
   151
   118
   64
   82
   86
   Other labs: Differential-Neuts:86.3 %, Lymph:8.2 %, Mono:4.9 %, Eos:0.4
   %, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10055**] is an 82 yo [**Country **] Rican F w/ asthma and bronchiectasis
   admitted w/ dry non-productive cough, myalgias, and SOB x 1 wk due to
   H1N1 influenza and exacerbation of underlying asthma, now with likely
   superimposed bacterial pneumonia from known colonizers vs. HAP.
   1. PNEUMONIA
 Leukocytosis improving,  likely due to antibiotic
   therapy (Vanc/ Ceftaz) which was initiated due to concern for
   superimposed pneumonia.  Given known hx bronchiectasis and previous
   sputum cx growing out pseudomonas and e.coli will treat broadly w/ anti
   pseudomonal coverage. Did not cover for atypicals given presentation of
   infiltrate/ leukocytosis during hospital course, as initial admission
   CXR more c/w viral process.
   -- continue Vanc & Ceftaz pending sensitivities, today is day [**3-9**] of
   antibiotics (to end [**2194-12-2**])
   -- f/u sensitivities once speciated (asked lab to add-on sensitivities
   for ceftaz, cefepime given likely pseudomonas)
   -- trend WBC count, fever curve (no tylenol)
   -- c/o floor today-> sign out she has known tachycardia (baseline
   HR~100s as per Dr. [**Last Name (STitle) 104**], her outpateint pulmonologist)
   .
   2. RESPIRATORY DISTRESS- due to influenza and likely superimposed
   bacterial PNA in combination with underylying asthma
   -- continue tamiflu at 75mg po BID as renal function has improved.
   Usually total duration is 5-7 days for treatment.
   -- supportive care with IVF, nebulizers, guaifenosin-dextromethorphan
   and tessalon perles, holding acetaminophen so as not to mask fever
   -- continue prednisone, but taper to 40mg today (As had 60mg x5 days),
   slow taper 30->20->10 (which is what she is on as an outpatient
   -- needs budesonide nebs (cannot take fluticasone as per outpatient
   pulm)
   -- continue nebs for asthma standing q4h albuterol nebs w/ q2h
   albuterol nebs PRN
   3.  HTN
   --continue diltiazem for rate and blood pressure control
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2194-11-22**] 04:30 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: home PPI
   VAP:
   Communication:  Comments: #. Communication [**Name (NI) **] niece [**Name (NI) 225**]
   [**Telephone/Fax (1) 10060**], cell [**Telephone/Fax (1) 10061**]
   Code status: DNR / DNI
   Disposition: c/o floor !